US05665777
A mixture of 5-(4-iodophenoxy)pentanoic acid (6.00 g, 18.8 mmol) and excess thionyl chloride was heated at reflux for 30 minutes. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was azeotroped three times with ethyl ether and then was taken up in THF. To the acid chloride solution was added an aqueous solution of O-tert-butylhydroxylamine (24 mmol; prepared by adding aqueous 3M NaOH to an aqueous solution of O-tert-butylhydroxylamine hydrochloride) and the cloudy solution was stirred for 20 hours. The reaction mixture was poured into a mixture of ethyl acetate and saturated aqueous NH4Cl. The organic phase was washed with water and brine, dried over MgSO4, filtered, and concentrated in vacuo to give O-tert-butyl 5-(4-iodophenoxy)pentanohydroxamic acid (6.52 g).

reactant | 5-(4-iodophenoxy)pentanoic acid | 18.8 mmol, 6.00 g | IC1=CC=C(OCCCCC(=O)O)C=C1 | C11H13IO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | NaOH | 3M | [OH-].[Na+]
reactant | O-tert-butylhydroxylamine hydrochloride | Cl.C(C)(C)(C)ON
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | O-tert-butyl 5-(4-iodophenoxy)pentanohydroxamic acid | 6.52 g | C(C)(C)(C)ONC(CCCCOC1=CC=C(C=C1)I)=O | C15H22INO3
